US05204326
Preparation of Boc-Thr-(Bzl)-Glu-OBzl
To a solution of 2.83 g of H-Glu-OBzl dissolved in 40 ml of acetonitrile were added 3.3 ml of triethylamine and 5.00 g of Boc-Thr(Bzl)-OSu under ice-cooling. The mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in 50 ml of ethyl acetate and the resulting solution was washed with 30 ml of water twice. The ethyl acetate layer was dried with anhydrous magnesium sulfate. The solvent was removed by distillation to dry the ethyl acetate layer, whereby 5.50 g (yield: 87.2%) of the above objective compound was obtained as a powder form product.

reactant | H-Glu-OBzl | 2.83 g | N[C@@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1 | C12H15NO4
reactant | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | Boc-Thr(Bzl)-OSu | 5.00 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | Boc-Thr-(Bzl) Glu-OBzl | 5.50 g, yield: 87.2% | C[C@H]([C@@H](C(=O)O)NC(=O)OC(C)(C)C)OCC1=CC=CC=C1.N[C@@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1 | InChI=1S/C16H23NO5.C12H15NO4/c1-11(21-10-12-8-6-5-7-9-12)13(14(18)19)17-15(20)22-16(2,3)4;13-10(6-7-11(14)15)12(16)17-8-9-4-2-1-3-5-9/h5-9,11,13H,10H2,1-4H3,(H,17,20)(H,18,19);1-5,10H,6-8,13H2,(H,14,15)/t11-,13+;10-/m10/s1
